US04493726
126 ml of phosphoroxy chloride (POCl3) and then 57 ml of N,N-dimethyl aniline are added dropwise over 30 minutes to 54.5 g of 2-p-methoxyphenyl-4,6-dihydroxypyrimidine with cooling, such that the temperature does not exceed 45° C. The reaction mixture is then stirred for 2 hours at room temperature and subsequently refluxed for 2 hours. The reaction mixture is then concentrated by rotary evaporation and the residue is triturated in 2 liters of iced water. The solid product is isolated by filtration, dissolved in 1.5 liters of methylene chloride and the solution is treated with fuller's earth and dried. The methylene chloride solution is filtered and concentrated. The residue is recrystallised from ethanol, affording 51 g of crystalline 2p-methoxyphenyl-4,6-dichloropyrimidine with a melting point of 127°-128° C.

reactant | POCl3 | 126 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethyl aniline | 57 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | 2-p-methoxyphenyl-4,6-dihydroxypyrimidine | COC1=CC=C(C=C1)C1=NC(=CC(=N1)O)O | C11H10N2O3
reactant | methylene chloride | 1.5 liters | C(Cl)Cl | CH2Cl2
product | 2p-methoxyphenyl-4,6-dichloropyrimidine | 51 g | COC1=CC=C(C=C1)C1=NC(=CC(=N1)Cl)Cl | C11H8Cl2N2O
